US08389734B2
A mixture of 2-fluoro-4-(trifluoromethyl)benzonitrile (0.19 g, 1.0 mmol), 6-(trifluoromethyl)pyridin-3-ol (0.16 g, 1.0 mmol), and Cs2CO3 (0.33 g, 1 mmol) in DMF (10 mL) was stirred at 60° C. for 18 hours. The reaction was diluted with water and extracted with ethyl acetate. The combined extracts were washed with brine and water, dried over sodium sulfate, and evaporated. The residue was purified by column chromatography on silica gel with 0-15% ethyl acetate in hexanes to give 4-(trifluoromethyl)-2-(6-(trifluoromethyl)pyridin-3-yloxy)benzonitrile (0.29 g, 87% yield). LC/MS: m/z 333.5 (M+H)+ at 1.83 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-fluoro-4-(trifluoromethyl)benzonitrile | 1.0 mmol, 0.19 g | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | 6-(trifluoromethyl)pyridin-3-ol | 1.0 mmol, 0.16 g | FC(C1=CC=C(C=N1)O)(F)F | C6H4F3NO
reactant | Cs2CO3 | 1 mmol, 0.33 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(trifluoromethyl)-2-(6-(trifluoromethyl)pyridin-3-yloxy)benzonitrile | 0.29 g, 87% yield | FC(C1=CC(=C(C#N)C=C1)OC=1C=NC(=CC1)C(F)(F)F)(F)F | C14H6F6N2O
